US05143918
17-Ethyl-1-hydroxy-12-[2'-(3"-chloro-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(3"-chloro-4"-trimethylsilyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (20 mg) in 1 ml of methylene chloride was added a solution of p-toluenesulfonic acid (200 μl, 1% solution in methanol) and stirred for 20 minutes at room temperature. Purification of the crude product by preparative tlc on silica gel (1:1 hexane:ethyl acetate) gave the title compound in quantitative yield.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3"-chloro-4"-trimethylsilyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 20 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C)Cl)C)C)=O | C45H74ClNO10Si
reactant | p-toluenesulfonic acid | 200 μl | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 17-Ethyl-1-hydroxy-12-[2'-(3"-chloro-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | quantitative yield | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)Cl)C)C)=O | C42H66ClNO10
